US05610144
Ethyl (2RS,5SR)-5-phenylprolinate may be obtained as follows: 0.5 cm3 of concentrated sulphuric acid is added dropwise to a solution of 5.5 g of (2RS,5SR)-5-phenylproline in 50 cm3 of ethanol. The reaction mixture is then stirred at a temperature in the vicinity of 80° C. for five hours, then cooled to a temperature in the vicinity of 20° C. and concentrated under reduced pressure. The residue is taken up in 50 cm3 of water, brought to a pH in the vicinity of 9 by a normal aqueous sodium hydroxide solution and extracted with 3 times 100 cm3 of ethyl acetate. The combined organic extracts are washed with 50 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated under reduced pressure. The residue is subjected to chromatography on silica [eluent cyclohexane/ethyl acetate (90/10 by volume)]. The fractions containing the expected product are combined and concentrated under reduced pressure. 2.16 g of ethyl (2RS,5SR)-5-phenylprolinate are thus obtained in the form of an oil, used as it is in subsequent syntheses.

reactant | sulphuric acid | 0.5 cm3 | S(O)(O)(=O)=O | H2O4S
reactant | (2RS,5SR)-5-phenylproline | 5.5 g | C1(=CC=CC=C1)C1CCC(N1)C(=O)O | C11H13NO2
reactant | ethanol | 50 cm3 | C(C)O | C2H6O
product | ethyl (2RS,5SR)-5-phenylprolinate | 2.16 g | C1(=CC=CC=C1)C1CCC(N1)C(=O)OCC | C13H17NO2
